US06599861B2
0.8 g (5.8 mmols) of bicyclo[3.2.1]octan-2,4-dione (the preparation thereof is described for example in U.S. Pat. No. 5,608,101 and in the references cited therein) are dissolved in 15 ml of methylene chloride at 20° C. The solution is mixed with 0.97 ml of triethylamine and cooled to a temperature of 0° C. Then, a solution of 1.6 g (5.8 mmols) of 4-methylsulphonyl-3-methoxymethyl-2-methylbenzoic acid chloride in 10 ml of methylene chloride is added dropwise. The reaction mixture is stirred for half an hour at a temperature of 0° C. and is subsequently diluted with methylene chloride. After washing and drying, the organic phase is concentrated by evaporation. 2.23 g of 4-methylsulphonyl-3-methoxymethyl-2-methylbenzoic acid-4-oxo-bicyclo[3.2.1]oct-2-en-2-yl-ester is obtained in amorphous form. This can be used for the next step without purification.

reactant | bicyclo[3.2.1]octan-2,4-dione | 5.8 mmols, 0.8 g | C12C(CC(C(CC1)C2)=O)=O | C8H10O2
reactant | triethylamine | 0.97 ml | C(C)N(CC)CC | C6H15N
reactant | 4-methylsulphonyl-3-methoxymethyl-2-methylbenzoic acid chloride | 5.8 mmols, 1.6 g | CS(=O)(=O)C1=C(C(=C(C(=O)Cl)C=C1)C)COC | C11H13ClO4S
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 4-methylsulphonyl-3-methoxymethyl-2-methylbenzoic acid-4-oxo-bicyclo[3.2.1]oct-2-en-2-yl-ester | 2.23 g | O=C1C=C(C2CCC1C2)OC(C2=C(C(=C(C=C2)S(=O)(=O)C)COC)C)=O | C19H22O6S
